US09447012B2
In one specific embodiment of the present disclosure, 20 ml of 1-heptanol, 1 mmol of galactaric acid, 0.05 mmol of methyltrioxorhenium catalyst, and 0.05 mmol of para-toluenesulfonic acid were poured into a 50 cc reactor. The temperature in the reactor was then raised to 150° C. and the reaction was performed for 12 hours, maintaining the reactor temperature at 150° C. to obtain diheptyl galactarate.

reactant | galactaric acid | 1 mmol | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O | C6H10O8
reactant | para-toluenesulfonic acid | 0.05 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | methyltrioxorhenium | 0.05 mmol | C[Re](=O)(=O)=O
solvent | 1-heptanol | 20 ml | C(CCCCCC)O | C7H16O
product | diheptyl galactarate | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)OCCCCCCC)OCCCCCCC | C20H38O8
